US07238808B2
5-[5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridin-2-ylamine
The title compound was prepared from 5-(4-chloro-phenyl)-7-cyclopropyl-3-ethynyl-pyrazolo[1,5-a]pyrimidine (example C.5) (73 mg, 0.25 mmol) and 2-amino-5-bromopyridine (43 mg, 0.25 mmol) according to general procedure II. Obtained as an orange solid (14 mg, 15%). MS (ISP) 386.3 [(M+H)+]; mp 233–235° C.

reactant | 5-(4-chloro-phenyl)-7-cyclopropyl-3-ethynyl-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 73 mg | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C1CC1)N=CC2C#C | C17H12ClN3
reactant | 2-amino-5-bromopyridine | 0.25 mmol, 43 mg | NC1=NC=C(C=C1)Br | C5H5BrN2
product | 5-[5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridin-2-ylamine | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C1CC1)N=CC2C#CC=2C=CC(=NC2)N | C22H16ClN5
